US06150429
Sodium methoxide (NaOCH3), toluene (anhydrous), dichloromethane, hexanes, activated neutral aluminum oxide (60 to 50 mesh), hydroquinone, methyl ethyl ketone peroxide, dimethylaniline, dicumylperoxide, diethylene glycol diacrylate, and tert-butylperoxybenzoate were obtained from commercial sources and used as received.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | methyl ethyl ketone peroxide | CCC(C)(OO)OOC(C)(CC)OO | C8H18O6
reactant | dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
reactant | dicumylperoxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
reactant | diethylene glycol diacrylate | C(C=C)(=O)OCCOCCOC(C=C)=O | C10H14O5
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-butylperoxybenzoate | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
